US05006522
(a) 5,11-Dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
To a suspension of 7.4 g (0.035 mol) of 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one in 150 ml of anhydrous tetrahydrofuran, 44.8 ml (approx. 0.07 mol) of a 15% solution of n-butyl-lithium in n-hexane was added dropwise with stirring at a reaction temperature of from 0° to +10° C. After it had all been added, the mixture was stirred for 30 minutes at ambient temperature before a solution of 4.16 g (0.035 mol) of 3-bromo-prop-1-yne in 25 ml of anhydrous tetrahydrofuran was added dropwise. The resulting mixture was stirred for a further 2 hours at ambient temperature, added to 1 liter of saturated aqueous saline solution and the resulting mixture was extracted exhaustively with ethylacetate. The combined ethylacetate extracts were washed twice more with 100 ml of saturated saline solution, dried over sodium sulphate with the addition of 1 g of activated charcoal and evaporated down in vacuo. The residue was purified on silica gel by chromatography using dichloromethane/ethyl acetate 95/5 (v/v) as eluant. 8.5 g (97% of theory) of colourless crystals were obtained, m.p. 199° C. (decomposition).

reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.035 mol, 7.4 g | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 3-bromo-prop-1-yne | 0.035 mol, 4.16 g | BrCC#C | C3H3Br
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5,11-Dihydro-11-(prop-2-ynyl)-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C#C)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C15H11N3O
